US05032313
Using trans-4-[2-(trans-4-propylcyclohexyl)ethyl]-cyclohexylacetyl chloride and a Grignard reagent prepared from 1-bromo-3,4,5-trifluorobenzene, as starting raw materials, 1-[trans-4-{2-(trans-4-propylcyclohexyl)ethyl}-cyclohexyl]-2-(3,4,5-trifluorophenyl)ethane was obtained in the same manner as in Example 2.

reactant | trans-4-[2-(trans-4-propylcyclohexyl)ethyl]-cyclohexylacetyl chloride | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)CC(=O)Cl | C19H33ClO
reactant | 1-bromo-3,4,5-trifluorobenzene | BrC1=CC(=C(C(=C1)F)F)F | C6H2BrF3
product | 1-[trans-4-{2-(trans-4-propylcyclohexyl)ethyl}-cyclohexyl]-2-(3,4,5-trifluorophenyl)ethane | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)CCC1=CC(=C(C(=C1)F)F)F | C25H37F3
